US06500247B1
9.65 parts of cyanuric fluoride are added to a neutral solution of 35.80 parts of the copper complex of 5-amino-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxybenzenesulfonic acid in 350 parts of water at 0 to 2° C. in the course of 10 minutes. During the addition the pH is kept at 5.8 to 6 with a 15% sodium hydroxide solution. After the addition the mixture is stirred for about 15 minutes, the pH is brought to 3.5 to 3.8 with 32% hydrochloric acid and the mixture is stirred again for about 15 minutes. The pH is then brought to about 5.8 to 6 with a 15% sodium hydroxide solution. A solution of 5-[4,6-difluoro-1,3,5-triazin-2-ylamino]-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxybenzenesulfonic acid is obtained.

reactant | cyanuric fluoride | N1=C(F)N=C(F)N=C1F | C3F3N3
reactant | 5-amino-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxybenzenesulfonic acid | NC=1C(=C(C=C(C1)S(=O)(=O)O)N=NC(=NNC1=C(C=CC(=C1)S(=O)(=O)O)C(=O)O)C1=CC=CC=C1)O | C20H17N5O9S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-[4,6-difluoro-1,3,5-triazin-2-ylamino]-3-[3-phenyl-5-(2-carboxy-5-sulfophenyl)-1-formazano]-4-hydroxybenzenesulfonic acid | FC1=NC(=NC(=N1)F)NC=1C(=C(C=C(C1)S(=O)(=O)O)N=NC(=NNC1=C(C=CC(=C1)S(=O)(=O)O)C(=O)O)C1=CC=CC=C1)O | C23H16F2N8O9S2
